US09340510B2
5-Chloro-6-methoxy-1,2,3,4-tetrahydro-isoquinoline
5.0 g (31 mmol) 6-Methoxy-1,2,3,4-tetrahydro-isoquinoline in 30 mL AcOH are cooled to 0° C. and 2.7 mL (34 mmol) sulfuryl chloride are added slowly. The resulting mixture is stirred at r.t. over night. The solvent is removed in vacuo and the residue is treated with toluene/ACN 1:1. The precipitate is filtered off and dried at 40° C. in vacuo.

reactant | 6-Methoxy-1,2,3,4-tetrahydro-isoquinoline | 31 mmol, 5.0 g | COC=1C=C2CCNCC2=CC1 | C10H13NO
reactant | sulfuryl chloride | 34 mmol, 2.7 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | AcOH | 30 mL | CC(=O)O | C2H4O2
product | 5-Chloro-6-methoxy-1,2,3,4-tetrahydro-isoquinoline | ClC1=C2CCNCC2=CC=C1OC | C10H12ClNO
